US07666888B2
3-(1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}piperidin-4-yl)-1H-indole
To 5-(4-methylphenyl)isoxazole-4-carbonyl chloride (10 mg, 0.045 mmol) in dichloromethane (1 mL) was added 3-piperidin-4-yl-1H-indole (9.9 mg, 0.050 mmol, 1.1 eq.), and the reaction mixture was stirred for 1 h. The solvent was removed, and the residue was purified by preparative reverse-phase HPLC to give the title compound. HRMS (ESI, pos. ion) m/z calcd for C24H23N3O2: 385.1790, found 385.1797.

reactant | 5-(4-methylphenyl)isoxazole-4-carbonyl chloride | 0.045 mmol, 10 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)Cl | C11H8ClNO2
reactant | 3-piperidin-4-yl-1H-indole | 0.050 mmol, 9.9 mg, 1.1 eq. | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 3-(1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}piperidin-4-yl)-1H-indole | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CCC(CC1)C1=CNC2=CC=CC=C12 | C24H23N3O2
